*Crystal Subcircuit Parameters
*FREQ = Fundamental frequency
*RS   = Series resistance
*C    = Parallel capacitance
*Q    = Quality Factor

*Generic type:crystal pkg:HC33/51
.SUBCKT XTAL 1 2 PARAMS: FREQ=1Meg RS=750 C=13pf Q=1000
LX 1 3 {((Q*RS)/(6.2831852*FREQ))} IC=0.5M
CX 3 4 {(1/(Q*6.2831852*FREQ*RS))}
C0 1 2 {C}
RS 4 2 {RS}
.ENDS XTAL
